US07517873B2
1-aminomethyl-cyclopropanecarboxylic acid methyl ester was prepared by hydrogenation of 1-cyano-cyclopropanecarboxylic acid ethyl ester, by the method similar to the preparation of 3-amino-2,2-dimethyl-propanoic acid methyl ester, above.

reactant | 1-cyano-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C#N | C7H9NO2
reactant | 3-amino-2,2-dimethyl-propanoic acid methyl ester | COC(C(CN)(C)C)=O | C6H13NO2
product | 1-aminomethyl-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)CN | C6H11NO2
